US07851626B2
rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(4-morpholin-4-yl-piperidin-1-yl)-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 4-piperidin-4-yl-morpholine (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C36H40N4O3F3Cl2 [(M+H)+] 703.2424, observed 703.2419.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C27H22Cl3F3N2O2
reactant | 4-piperidin-4-yl-morpholine | N1CCC(CC1)N1CCOCC1 | C9H18N2O
product | rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-ethoxy-4-trifluoromethyl-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-(4-morpholin-4-yl-piperidin-1-yl)-methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCC(CC1)N1CCOCC1)C1=C(C=C(C=C1)C(F)(F)F)OCC)C | C36H39Cl2F3N4O3
